US06008402
Preparation of Ethyl 5-methyl-4-oxo-2,3,7,8-tetrahydro-4H-1-benzothiopyran-6-carboxylate
A mixture of ethyl 2-methyl-4-oxo-2-cyclohexenecarboxylate (2.0 kg, 91.2%, 10.98 moles), β-mercaptopropionic acid (1.165 kg, 10.98 moles), p-toluenesulfonic acid (ptsa) monohydrate (0.710 kg, 3.73 moles) and pyridine (0.304 kg, 3.84 moles) in toluene is heated to reflux temperature, heated at reflux temperatures for 7 hours using a Dean Stark trap for removal of water, allowed to cool to room temperature over a 17 hour period, cooled to 5° C., treated with trifluoroacetic anhydride (TFAA) (2.306 kg, 10.98 moles) at 50°-12° C., treated with methanesulfonic acid (0.053 kg, 0.55 moles), allowed to warm to room temperature, held at room temperature until reaction is complete by HPLC analysis and quenched with water. The phases are separated. The organic phase is washed with water and distilled to remove the toluene. The remaining pot residue is treated with isopropyl alcohol (1.89 kg), cooled to 45° C., treated with heptane (1.65 kg), and cooled to room temperature. The resultant mixture is filtered and the filtercake is washed sequentially with a 1:1 isopropanol:heptane mixture (0.735 kg) and heptane (1.37 kg). The washed filtercake is dried in vacuo to give the title product as a white crystalline solid, 0.931 kg (36% yield) 98.4% purity, identified by HPLC analysis.

reactant | ethyl 2-methyl-4-oxo-2-cyclohexenecarboxylate | 10.98 moles, 2.0 kg | CC=1C(CCC(C1)=O)C(=O)OCC | C10H14O3
reactant | β-mercaptopropionic acid | 10.98 moles, 1.165 kg | SCCC(=O)O | C3H6O2S
reactant | p-toluenesulfonic acid | 3.73 moles, 0.710 kg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | 3.84 moles, 0.304 kg | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 10.98 moles, 2.306 kg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methanesulfonic acid | 0.55 moles, 0.053 kg | CS(=O)(=O)O | CH4O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-methyl-4-oxo-2,3,7,8-tetrahydro-4H-1-benzothiopyran-6-carboxylate | 36% yield | CC1=C(CCC2=C1C(CCS2)=O)C(=O)OCC | C13H16O3S
